US09034900B2
Step 1: 7-fluoro-2-methylisoquinolin-1-one
Under N2, sodium hydride (710 mg, 29.4 mmol) was added to 7-fluoro-2H-isoquinolin-1-one (4 g, 24.55 mmol) in dry DMF (40 mL) at 0° C. After stirring at 0° C. for 20 min, CH3I (5.2 g, 36.7 mmol) was added. The mixture was stirred at 26° C. for 2 h. Saturated aqueous NH4Cl (20 mL) was added and after extractive work up with ethyl acetate, purification by silica gel chromatography (PE:EA=10:1) gave the title compound (2.2 g, 50%) as an off-white solid. 1H NMR (CDCl3, 400 MHz) δ 8.06 (dd, J1=9.6 Hz, J2=2.8 Hz, 1H), 7.50 (dd, J1=8.8 Hz, J2=5.2 Hz, 1H), 7.38-7.36 (m, 1H), 7.03 (d, J=7.6 Hz, 1H), 6.48 (d, J=7.2 Hz, 1H), 3.61 (s, 3H). LCMS: 178.1 [M+H]+

reactant | sodium hydride | 29.4 mmol, 710 mg | [H-].[Na+]
reactant | 7-fluoro-2H-isoquinolin-1-one | 24.55 mmol, 4 g | FC1=CC=C2C=CNC(C2=C1)=O | C9H6FNO
reactant | CH3I | 36.7 mmol, 5.2 g | CI | CH3I
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 7-fluoro-2-methylisoquinolin-1-one | 2.2 g, 50% | FC1=CC=C2C=CN(C(C2=C1)=O)C | C10H8FNO
